US08486941B2
To a suspension of 4-carboxyphenylboronic acid (5.0 g, 30 mmol) in DMF (5 mL) and dichloromethane (200 mL) at 0° C. was added oxalylchloride (5.9 mL, 66 mmol) dropwise. When gas evolution slowed, the ice bath was removed and the reaction allowed to warm to room temperature over 30 min. The reaction was then heated at 40° C. for three hours by which time all solids had dissolved. The dichloromethane was removed by distillation and the DMF solution cooled to 0° C. A solution of aminoacetonitrile hydrochloride (3.05 g, 33 mmol) in DMF (80 mL) and DIPEA (13 mL, 75 mmol) was then added dropwise. After the addition was complete the ice bath was removed and the solution allowed to stir at room temperature for 16 h. Most of the DMF was then removed in vacuo and the reaction was partitioned between ethyl acetate and 2 M aqueous hydrochloric acid. The aqueous layer was extracted twice further with ethyl acetate and the combined organic fractions dried (Na2SO4) filtered and concentrated under reduced pressure to afford 4-(cyanomethylcarbamoyl)phenylboronic acid as a waxy pale yellow solid (5.34 g, 87%). 1H NMR (300 MHz, d6-DMSO): 9.18 (br. t, J=5.1 Hz, 1H), 7.8-7.9 (m, 4H), 4.31 (d, J=5.4 Hz, 2H); LC-ESI-MS (method B): rt 0.9 min.; m/z 203.3 [M−H]−.

reactant | 4-carboxyphenylboronic acid | 30 mmol, 5.0 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | oxalylchloride | 66 mmol, 5.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aminoacetonitrile hydrochloride | 33 mmol, 3.05 g | Cl.NCC#N
reactant | DIPEA | 75 mmol, 13 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 4-(cyanomethylcarbamoyl)phenylboronic acid | 5.34 g, 87% | C(#N)CNC(=O)C1=CC=C(C=C1)B(O)O | C9H9BN2O3
